US08053458B2
5,5′-Dimethyl-2-phenethyl-2′-phenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol
Prepare the title compound from 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione and phenethyl hydrazine sulfate according to the procedure of Example 28.

reactant | 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione | C1(=CC=CC=C1)N1N=C(C(C1=O)C(CC(C)=O)=O)C | C14H14N2O3
reactant | phenethyl hydrazine sulfate | S(=O)(=O)(O)O.C(CC1=CC=CC=C1)NN
product | 5,5′-Dimethyl-2-phenethyl-2′-phenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol | CC=1C=C(N(N1)CCC1=CC=CC=C1)C1=C(N(N=C1C)C1=CC=CC=C1)O | C22H22N4O
